US05527816
To a flask under a nitrogen atmosphere was added 6.1 g. of lithium aluminum hydride in 60 ml. of dry THF at -4° C. The resulting slurry was stirred and 20.0 g. (0.102 mole) of 4-chlorophenoxyacetic acid in 100 ml. of dry THF was added dropwise. The reaction was stirred overnight and was quenched by cautiously adding saturated aqueous sodium sulfate solution followed by ethyl acetate. The solid was removed by filtration and the aqueous phase was extracted twice with 50 ml. portions of ethyl acetate. The combined ethyl acetate solutions were washed with aqueous saturated sodium chloride solution (brine) and then dried using magnesium sulfate. Removal of the solvent resulted in 17.6 g. (94% yield) of 2-(4-chlorophenoxy)ethanol being isolated as a yellow oil.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-chlorophenoxyacetic acid | 0.102 mole | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-chlorophenoxy)ethanol | 94% yield | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
